US09328106B2
Nitrogen was bubbled through a solution of 3-chloro-2-methyl-4-nitro-pyrazole (16 g, 100 mmol), potassium vinyltrifluoroborate (18 g, 134 mmol) and cesium carbonate (3.7 M in water, 50 mL, 190 mmol) in DMF (100 mL). 1,1′-Bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (900 mg, 1.10 mmol) was added and degassing continued for 30 min. The reaction mixture was heated at 110° C. for 18 hr. More 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (900 mg, 1.10 mmol) was added and heating continued for 24 hr. More 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (400 mg, 0.49 mmol) was added and heating continued for 4 hr. The reaction was cooled to room temperature and brine (200 mL) and EtOAc (500 mL) were added. The organic layer was washed with water (4×300 mL), separated, dried over Na2SO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (0-40% EtOAc/isohexane) gave 1-methyl-4-nitro-5-vinyl-1H-pyrazole as a colourless solid (9.1 g). Through a solution of this solid (9.1 g, 59 mmol) in DCM (400 mL) cooled to −78° C. was bubbled ozone. When the solution turned blue, ozone addition was stopped. Nitrogen was passed through the solution until the blue colour was discharged. The mixture was allowed to warm to room temperature and flushed with nitrogen for 15 min Anhydrous dimethyl sulfide (5 mL) was added and the mixture warmed to room temperature. After stirring for 12 hr, the solvents were removed under reduced pressure. DCM (150 mL) was added and the mixture was washed with water (50 mL). The aqueous layer was extracted with DCM (3×100 mL) and the combined organic layers were washed with brine (100 mL), separated, dried over Na2SO4 and concentrated to give 2-methyl-4-nitro-pyrazole-3-carbaldehyde as a yellow-orange solid (6.6 g, 43% over two steps). 1H NMR (400 MHz, CDCl3) δ 10.51 (s, 1H), 8.11 (s, 1H), 4.23 (s, 3H).

reactant | 3-chloro-2-methyl-4-nitro-pyrazole | 100 mmol, 16 g | ClC=1N(N=CC1[N+](=O)[O-])C | C4H4ClN3O2
reactant | potassium vinyltrifluoroborate | 134 mmol, 18 g | C(=C)[B-](F)(F)F.[K+]
reactant | cesium carbonate | 190 mmol, 3.7 M, 50 mL | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | brine | 200 mL | [Cl-].[Na+].O
product | 1-methyl-4-nitro-5-vinyl-1H-pyrazole | 9.1 g | CN1N=CC(=C1C=C)[N+](=O)[O-] | C6H7N3O2
